US06555556B1
5-Cyano-2-hydroxycinnamaldehyde
A solution of 5-cyano-2-hydroxybenzaldehyde (4.3 g) and (triphenylphosphoranylidene)acetaldehyde (9.4 g) in toluene (150 ml) was stirred at 70° C. for 2 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using dichloromethane/ethyl acetate=3/1 as an eluant to give the desired compound (2.3 g, yield 44%) as a colorless solid.

reactant | 5-cyano-2-hydroxybenzaldehyde | 4.3 g | C(#N)C=1C=CC(=C(C=O)C1)O | C8H5NO2
reactant | (triphenylphosphoranylidene)acetaldehyde | 9.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Cyano-2-hydroxycinnamaldehyde | 2.3 g, yield 44% | C(#N)C=1C=CC(=C(C=CC=O)C1)O | C10H7NO2
